US09169261B2
To a solution of (S)-tert-butyl 3-(6-chloroquinazoline-2-carboxamido)pyrrolidine-1-carboxylate (0.086 g, 0.23 mmol, 1 eq) in 1 mL of p-dioxane was added a solution of 4.0 M HCl in dioxane (0.29 mL, 1.2 mmol, 5 eq). After stirring at 60° C. for 1 h, the mixture was concentrated to provide (S)-6-chloro-N-(pyrrolidin-3-yl)quinazoline-2-carboxamide which was carried on without further purification.

reactant | (S)-tert-butyl 3-(6-chloroquinazoline-2-carboxamido)pyrrolidine-1-carboxylate | 0.23 mmol, 0.086 g, 1 eq | ClC=1C=C2C=NC(=NC2=CC1)C(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C18H21ClN4O3
reactant | HCl | 4.0 M | Cl | ClH
solvent | p-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.2 mmol, 0.29 mL, 5 eq | O1CCOCC1 | C4H8O2
product | (S)-6-chloro-N-(pyrrolidin-3-yl)quinazoline-2-carboxamide | ClC=1C=C2C=NC(=NC2=CC1)C(=O)N[C@@H]1CNCC1 | C13H13ClN4O
